US04259510
Methyl 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate
To a flask fitted with a drying tube is charged DMSO (10 ml), 2-chloro-4-trifluoromethylphenol (3.93 g, 0.02 mole) and anhydrous potassium carbonate (2.76 g, 0.02 mole). Then methyl 5-chloro-2-nitrobenzoate (4.3 g, 0.02 mole) is added and the reaction mixture warmed to 50° C. for 3 hours. (Gas-liquid chromatography analysis suggested a low conversion to desired product.) The temperature is raised to 60° C. for 16 hours and then to 70° C. for 16 hours. Additional potassium carbonate (1.38 g, 0.01 mole) is added and heating at 70° C. is continued for an additional 5 days, the reaction mixture is cooled to room temperature, poured into a benzene/hexane cosolvent and extracted twice with water. The organic layer is dried with anhydrous sodium sulfate, filtered and the solvent removed under vacuum (110° C., 0.1 mm) to afford 2.0 g, (27% yield) of methyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate which is determined by spectral data to be identical with the product of Example 1B.

reactant | 2-chloro-4-trifluoromethylphenol | 0.02 mole, 3.93 g | ClC1=C(C=CC(=C1)C(F)(F)F)O | C7H4ClF3O
reactant | potassium carbonate | 0.02 mole, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 5-chloro-2-nitrobenzoate | 0.02 mole, 4.3 g | ClC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C8H6ClNO4
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | Methyl 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | ClC1=C(OC=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C15H9ClF3NO5
